US08236998B2
A solution of 334 mg of 2,3-di(n-hexyl)-6,13-pentacenequinone dissolved in 50 mL of THF was added to 11 mL of a 1 mol/1000 mL THF solution of lithium triethylborohydride, and the mixture was heated for 20 hours under reflux in a nitrogen atmosphere. The resulting solution was neutralized with diluted aqueous hydrochloric acid, and the organic phase was separated, concentrated and dried under a vacuum to produce 2,3-di(n-hexyl)-6,13-dihydro-6,13-dihydroxypentacene almost stoichiometrically.

reactant | 2,3-di(n-hexyl)-6,13-pentacenequinone | 334 mg | C(CCCCC)C1=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C2C=C1CCCCCC)=O)=O | C34H36O2
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | 2,3-di(n-hexyl)-6,13-dihydro-6,13-dihydroxypentacene | C(CCCCC)C1=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C2C=C1CCCCCC)O)O | C34H40O2
